US04115390
1-Ethyl Pyridinium Chloride
Liquified chloroethane was mixed with 10% excess chilled pyridine, sealed in the Parr pressure reaction apparatus and heated for 3 hrs. at 120° C. The resulting white, extremely hygroscopic crystals were washed three times with anhydrous ether and dried. This procedure gave a 83.4% yield of crystals, mp 116°-118° C., (lit, mp 118°-120° C.). NMR, δ1.75 (t, 3 protons), δ5.18 (q, 2 protons), δ8.20 (t, 2 protons), δ8.60 (t, 1 proton), δ9.90 (d, 2 protons).

reactant | chloroethane | ClCC | C2H5Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl Pyridinium Chloride | 83.4% yield | [Cl-].C(C)[N+]1=CC=CC=C1 | InChI=1S/C7H10N.ClH/c1-2-8-6-4-3-5-7-8;/h3-7H,2H2,1H3;1H/q+1;/p-1
